US05773463
(±) trans 1-(Phenylthio)-2-methylaminoindane
To a stirred suspension of LiAlH4 (0.22 g, 5.7 mmol) in dry diethyl ether (10 ml) under nitrogen was added a solution of (±) trans 1-(phenylthio)-2-ethoxycarbonylaminoindane (0.36 g, 1.15 mmol) in diethyl ether (15 ml). After stirring overnight at room temperature the reaction was worked up as described in Preparation 4 to give the title compound as a brown oil (0.27 g) which was used in the next stage without purification.

reactant | LiAlH4 | 5.7 mmol, 0.22 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±) trans 1-(phenylthio)-2-ethoxycarbonylaminoindane | 1.15 mmol, 0.36 g | C1(=CC=CC=C1)S[C@H]1[C@@H](CC2=CC=CC=C12)NC(=O)OCC | C18H19NO2S
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | (±) trans 1-(Phenylthio)-2-methylaminoindane | 0.27 g | C1(=CC=CC=C1)S[C@H]1[C@@H](CC2=CC=CC=C12)NC | C16H17NS
